US06479508B1
5-benzyloxyindole (2.00 g, 8.96 mmol) was dissolved in DMF (20 mL) and the solution cooled in ice. Sodium hydride (60% oil dispersion, 1.2 equivalent, 10.7 mmol, 0.43 g) was added and the mixture stirred for 30 min. Iodomethane (1.2 equivalent, 10.7 mmol, 0.67 mL) was added and the reaction stirred at room temperature overnight. The reaction was then poured into water (150 mL) and the precipitated solid collected by filtration. After washing with water and drying, 5-benzyloxy-1-methylindole (1.913 g, 90% yield) was obtained as a white solid.

reactant | 5-benzyloxyindole | 8.96 mmol, 2.00 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | Sodium hydride | 10.7 mmol, 0.43 g, 1.2 equivalent | [H-].[Na+]
reactant | Iodomethane | 10.7 mmol, 0.67 mL, 1.2 equivalent | IC | CH3I
reactant | water | 150 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-benzyloxy-1-methylindole | 1.913 g, 90% yield | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C | C16H15NO
